US07109148B2
A mixture of 0.60 g of methyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate (compound a-6), 0.13 g of sodium carbonate, and 7.0 ml of n-propanol was stirred under reflux for 2 hours. After cooling to room temperature, the solvent was distilled out under reduced pressure, and the residue was subjected to silica gel column chromatography to give propyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate (compound a-14).

reactant | methyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate | 0.60 g | ClC1=C(OC=2C(=NC=CC2)OCC(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H14ClF4N3O6
reactant | sodium carbonate | 0.13 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-propanol | 7.0 ml | C(CC)O | C3H8O
product | propyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate | ClC1=C(OC=2C(=NC=CC2)OCC(=O)OCCC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C22H18ClF4N3O6
